US06713464B1
A cooled (5° C.) solution of (±)-3-(2-benzyloxy-5-bromophenyl)-3-phenylpropan-1-ol (108.0 g) in dichloromethane (300 ml) was treated with pyridine (79.4 ml) and then p-toluenesulphonyl chloride (60.6 g) in dichloromethane (200 ml). After 18 hrs. at room temperature the solvent was removed in vacuum and the residue was extracted with diethyl ether. The extract was washed with hydrochloric acid, water, and dried over anhydrous sodium sulphate to give (±)-toluene-4-sulphonic acid 3-(2-benzyloxy-5-bromophenyl)-3-phenylpropyl ester as a light yellow oil after concentration under reduced pressure (140.3 g, 93.6% yield), tlc: (1) 0.66. NMR (CDCl3): 21.67, 33.67, 39.69, 68.58, 70.28, 113.21, 113.76, 126.47, 127.84, 128.10, 128.25, 128.41, 128.51, 129.81, 130.26, 130.42, 132.91, 134.39, 136.41, 142.16, 155.07.

reactant | (±)-3-(2-benzyloxy-5-bromophenyl)-3-phenylpropan-1-ol | 108.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C(CCO)C1=CC=CC=C1 | C22H21BrO2
reactant | pyridine | 79.4 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulphonyl chloride | 60.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (±)-toluene-4-sulphonic acid 3-(2-benzyloxy-5-bromophenyl)-3-phenylpropyl ester | 93.6% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C(CCOS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C29H27BrO4S
